US07319099B2
(a) 5-(4-Bromo-phenyl)-2-methyl-2H-tetrazole
A mixture of 3.5 mmol of 5-(4-bromo-phenyl)-2H-tetrazole, 0.2 mmol of tetrabutyl ammonium bromide, 4.4 mmol of methyl iodide, 6 ml of 1M aqueous sodium hydroxide and 6 ml of dichloromethane were stirred at room temperature for 24 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried, evaporated and the product purified by column chromatography (SiO2; cyclohexane/ethyl acetate 7:3). MS (m/e): 239.1 (MH+, 29%)

reactant | 5-(4-bromo-phenyl)-2H-tetrazole | 3.5 mmol | BrC1=CC=C(C=C1)C=1N=NNN1 | C7H5BrN4
reactant | methyl iodide | 4.4 mmol | CI | CH3I
reactant | sodium hydroxide | 1M, 6 ml | [OH-].[Na+]
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
catalyst | tetrabutyl ammonium bromide | 0.2 mmol | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 5-(4-Bromo-phenyl)-2-methyl-2H-tetrazole | BrC1=CC=C(C=C1)C=1N=NN(N1)C | C8H7BrN4
